US07435735B2
Step 2: 2-(3-Chloro-4-fluorobenzyl)-10-methoxy-4-(N-tert-butoxylcarbonyl-N-methanesulfonyl-amino)-8-methyl-7,8-dihydropyrido-[3′,4′:4,5]pyrrolo[1,2-a]pyrazine-1,9(2H,6H)-dione
A cold (0° C.) solution of 2-(3-chloro-4-fluorobenzyl)-10-methoxy-4-(N-tert-butoxylcarbonyl-amino)-8-methyl-7,8-dihydropyrido-[3′,4′:4,5]pyrrolo[1,2-a]pyrazine-1,9(2H,6H)-dione (0.74 g, 1.70 mmol) in anhydrous DMF (3 mL) was treated with sodium hydride (7 mg, 0.30 mmol). The resultant mixture was stirred at the same temperature for 30 minutes, and treated with methanesulfonyl chloride (34 mg, 0.30 mmol). After stirring at 0° for 1 hour, the product mixture was concentrated under vacuum. The residue was partitioned between chloroform and brine. The organic extract was dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluting with 20% methanol in ethyl acetate. Collection and concentration of appropriate fractions provided the titled compound.

reactant | 2-(3-chloro-4-fluorobenzyl)-10-methoxy-4-(N-tert-butoxylcarbonyl-amino)-8-methyl-7,8-dihydropyrido-[3′,4′:4,5]pyrrolo[1,2-a]pyrazine-1,9(2H,6H)-dione | 1.70 mmol, 0.74 g | ClC=1C=C(CN2C(C=3C(=C4N(CCN(C4=O)C)C3C(=C2)NC(=O)OC(C)(C)C)OC)=O)C=CC1F | C24H26ClFN4O5
reactant | sodium hydride | 0.30 mmol, 7 mg | [H-].[Na+]
reactant | methanesulfonyl chloride | 0.30 mmol, 34 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-(3-Chloro-4-fluorobenzyl)-10-methoxy-4-(N-tert-butoxylcarbonyl-N-methanesulfonyl-amino)-8-methyl-7,8-dihydropyrido-[3′,4′:4,5]pyrrolo[1,2-a]pyrazine-1,9(2H,6H)-dione | ClC=1C=C(CN2C(C=3C(=C4N(CCN(C4=O)C)C3C(=C2)N(S(=O)(=O)C)C(=O)OC(C)(C)C)OC)=O)C=CC1F | C25H28ClFN4O7S
